US08492388B2
To a stirred solution of 3-(trifluoromethoxy)benzoic acid (20.0 g, 96.1 mmol) in dichloromethane (200 mL), cooled to 0° C. with a brine/ice bath, was added N,N-dimethylformamide (0.37 mL, 4.8 mmol) followed by oxalyl chloride (10.1 mL, 115 mmol). The resulting mixture was stirred 5 h at room temperature, until gas evolution stopped and a clear solution was obtained. The mixture was cooled to 0° C. with a brine/ice bath, N,O-Dimethylhydroxylamine (9.37 g, 96 mmol) was added at once, followed by dropwise addition of triethylamine (45.5 mL, 326 mmol) through a dropping funnel, while keeping the internal temperature below 10° C. The resulting suspension was diluted with dichloromethane (200 mL), stirred overnight at room temperature, poured into water (400 mL) and the aqueous layer was extracted with dichloromethane (2×150 mL). The organic layers were combined, washed with water (2×200 mL), dried (MgSO4), and concentrated in vacuo. The residue was purified over silica gel to afford N-methoxy-N-methyl-3-(trifluoromethoxy)benzamide as an oil [22.4 g, yield 80%; HPLC/MS:m/z=250 (M+H); log P(HCOOH)=2.41].

reactant | 3-(trifluoromethoxy)benzoic acid | 96.1 mmol, 20.0 g | FC(OC=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O3
reactant | N,N-dimethylformamide | 4.8 mmol, 0.37 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 115 mmol, 10.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-Dimethylhydroxylamine | 96 mmol, 9.37 g | CNOC | C2H7NO
reactant | triethylamine | 326 mmol, 45.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 400 mL | O | H2O
product | N-methoxy-N-methyl-3-(trifluoromethoxy)benzamide | yield 80% | CON(C(C1=CC(=CC=C1)OC(F)(F)F)=O)C | C10H10F3NO3
